US04692182
To a stirred solution of concentrated hydrochloric acid (50 ml) was added 2-[(6-amino-2-chlorophenyl)methyl]-4,4-dimethyl-3-isoxazolidinone (4.9 g, 0.019 mole). The reaction mixture was cooled to 0° C., and a solution of sodium nitrite (1.3 g, 0.019 mole) in water (20 ml) was added dropwise, with the tip of the addition funnel below the surface of solution. Upon completion of addition, the reaction mixture was stirred at 0° C. for 30 minutes. A solution of stannous chloride dihydrate (9.5 g, 0.042 mole) in concentrated hydrochloric acid (30 ml) was then added dropwise. Upon completion of addition, the reaction mixture was stirred at 0° C. for one hour, after which time an insoluble material was removed by filtration. Ethyl acetate was added to the filtrate and more insoluble material was removed. The ethyl acetate mixture was concentrated under reduced pressure, made basic with aqueous sodium hydroxide, and extracted with methylene chloride. The methylene chloride extract was concentrated under reduced pressure. Concentrated hydrochloric acid was added to the residue and the mixture was concentrated under reduced pressure to yield 1.8 g of 2-[(2-chloro-6-hydrazinophenyl)methyl]-4,4-dimethyl-3-isoxazolidinone hydrochloride as a yellow solid; m.p. 180°-184° C. (dec). The NMR spectrum was consistent with the proposed structure.

reactant | 2-[(6-amino-2-chlorophenyl)methyl]-4,4-dimethyl-3-isoxazolidinone | 0.019 mole, 4.9 g | NC1=CC=CC(=C1CN1OCC(C1=O)(C)C)Cl | C12H15ClN2O2
reactant | sodium nitrite | 0.019 mole, 1.3 g | N(=O)[O-].[Na+]
solvent | water | 20 ml | O | H2O
solvent | hydrochloric acid | 30 ml | Cl | ClH
solvent | hydrochloric acid | 50 ml | Cl | ClH
product | 2-[(2-chloro-6-hydrazinophenyl)methyl]-4,4-dimethyl-3-isoxazolidinone hydrochloride | 1.8 g | Cl.ClC1=C(C(=CC=C1)NN)CN1OCC(C1=O)(C)C | InChI=1S/C12H16ClN3O2.ClH/c1-12(2)7-18-16(11(12)17)6-8-9(13)4-3-5-10(8)15-14;/h3-5,15H,6-7,14H2,1-2H3;1H
